US07989444B2
Preparation 13: 2-(1-Methylethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine
The title compound was prepared as described in General Procedure 2 from 1,1-dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate and isobutyryl chloride.

reactant | 1,1-dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1O | C15H22N2O3
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 2-(1-Methylethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | CC(C)C=1OC2=CC3=C(CCNCC3)C=C2N1 | C14H18N2O
